US05093328
To a suspension of calcium chloride (53.55 g) in dry ethanol (455 ml), sodium borohydride (26.6 g) was added under nitrogen stream while ice-cooling, and the resultant suspension was stirred at the same temperature for 1 hour. A solution of trans-1-benzyloxycarbonyl-4-t-butyldimethylsilyloxy-L-proline methyl ester (68.87 g) in dry ethanol (200 ml) was added thereto while ice-cooling, and the resulting mixture was stirred at the same temperature for 1 hour and at 25° to 30° C. for 2 hours. The reaction mixture was neutralized with 6N hydrochloric acid, poured into water, extracted with ethyl acetate, washed with aqueous sodium chloride solution and dried over magnesium sulfate. Removal of the solvent gave (2S,4R)-1-benzyloxycarbonyl-2-hydroxymethyl-4-t-butyldimethylsilyloxypyrrolidine.

reactant | calcium chloride | 53.55 g | [Cl-].[Ca+2].[Cl-]
reactant | sodium borohydride | 26.6 g | [BH4-].[Na+]
reactant | trans-1-benzyloxycarbonyl-4-t-butyldimethylsilyloxy-L-proline methyl ester | 68.87 g | COC([C@H]1N(C[C@@H](C1)O[Si](C)(C)C(C)(C)C)C(=O)OCC1=CC=CC=C1)=O | C20H31NO5Si
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | ethanol | 455 ml | C(C)O | C2H6O
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | (2S,4R)-1-benzyloxycarbonyl-2-hydroxymethyl-4-t-butyldimethylsilyloxypyrrolidine | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)CO | C19H31NO4Si
